Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
"I've been spending all
my time thinking about killing myself."

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
 Pt. with a h/o depression and ___ syndrome, who
recently broke up with girlfriend.  Also, with financial
stressors.
    Today, pt. telephoned his therapist, ___, who is
covered by ___, ___.  He disclosed having suicidal
ideations with a plan and means, which he refused to disclose. 
She directed pt. him to come into the ___.  In ___, pt. again
declined to dislose to this writer his suicidal plan, but he did
tell the ___ resident MD that he would jump off a secluded 
bridge.
     Pt. describes feeling overwhelmed by recent break-up with
girlfriend.  They are in the process of moving in together and
gf, ___, announced that she is no longer in love with him and
admitted to having cheated on him (for the third time in their 
10
month relationship).  Additionally, ___ has run up credit card
debt.  This, combined with the increased rent pt. took on to be
with her, has added to pt.'s despondancy.  
     Pt. with a h/o Aspeerger's, reports that he likes routine
and predictability, so he finds this situation particularly
stressful.  Pt. reports no other significant social supports.
    H/o depression.  Now reports active suicidal ideation with
undisclosed plan x several days.  

 
Past Medical History:
No sign. medical history.
Pt. with a h/o biting his thumbs: bilateral superficial bite
marks on both thumbs.

 
Social History:
___
Family History:
Mother with ? ___, per patient. Patient believes that 
both
of his parents may be treated with antidepressant medication
 
Physical Exam:
normal physical exam, normal vital on admission to Deaconess 4 
for this ___ yr old male in good health and no past medical hx.
 
Pertinent Results:
___ 09:40PM   ALT(SGPT)-12 AST(SGOT)-22 ALK PHOS-59 TOT 
BILI-0.4

___ 09:40PM   CALCIUM-9.8 PHOSPHATE-5.2* MAGNESIUM-2.0
___ 09:40PM   VIT B12-575 FOLATE-13.6
___ 09:40PM   TSH-2.4
___ 12:50PM   GLUCOSE-92 UREA N-10 CREAT-0.8 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-25 ANION GAP-15

___ 12:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:50PM   WBC-6.5 RBC-5.00 HGB-15.2 HCT-42.4 MCV-85 
MCH-30.3 MCHC-35.8* RDW-13.0
___ 12:50PM   NEUTS-60.5 ___ MONOS-5.6 EOS-0.9 
BASOS-0.7
___ 12:50PM   PLT COUNT-225
___ 12:40PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 12:40PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:40PM URINE  ___ BACTERIA-FEW YEAST-NONE 
___
 
Brief Hospital Course:
Legal: ___
Psych: Pt's reported lack of energy, motivation, anhedonia and 
prior sexual dysfunction on SSRIs led to initiation of 
Well-Butrin  SR therapy 100 BID, titrated up to 150 BID with 
only minor akathisia developing as only side effect, treated 
well with standing Ativan 0.5 mg BID. Pt reported increased 
energy and motivation within the first 24 hrs on therapy. At 
time of discharge, pt was oriented, mentating clearly and 
logically with no SI or thoughts of self harm, denied VH, AH, 
PI. He described anxiety over facing outside world without 
friends, few social supports but had coping skills mapped out in 
advance (cooking, pet ___ pigs) and safety plans in place 
(call therapist, call suicide hotline, call ___ and come to ___ 
in case suicidal thoughts recurred. Sufficiently more forward 
thinking and goal oriented at discharge than prior (able to list 
housing options, looking forward to returning to work etc)

Behavioral: occasionally expressed frustrations with 
incompetence and lack of organization of the overall unit but 
never became verbally abusive, angry or confrontational with 
staff or treaters. No CO, seclusion, physical or chemical 
restraints during stay. overall, was pleasant and cooperative 
with staff.

Medical: Pt in good health, normal VS throughout stay, no 
chronic medical issues to manage during stay.

Groups: Pt particpated actively in groups, generally thought to 
be a positive influence and contributor though he often 
commented outside of groups that "I am not getting that much out 
of it, I am not sure it is helping". never was disruptive or 
confrontational within group setting.

Family: mother and father aware of admission, came to visit the 
patient once during his stay. They seemed concerned about his 
condition and said they would try to be as supportive as 
possible after his discharge. Pt said eventually he would 
probably move in with his mother in a spare apartment in ___ 
once he completed his moveout from the ___, ___ apartment he 
recently leased.

Aftercare/Dispo: Social worker made contacts to Partial 
Hospitalization program in ___, ___ as pt has poor social 
supports at present and would respond well to highly structured, 
planned environment. He was initially reluctant to accept 
partial out of concern for taking further sick time off and 
missing more work but eventually accepted the idea and allowed 
social worker to confirm the arrangements. please see the 
discharge worksheet for specifics on the intake.

 
Medications on Admission:
none
 
Discharge Medications:
Well Butrin SR 150 mg BID

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
I- ___, MDD recurrent, r/o GAD
II- r/o Cluster C traits
III-none
IV- social isolation/no friends, loss girlfriend, housing 
situation, financial stressors
V- GAF 45
 
Discharge Condition:
stable mood and affect, no SI or intent or plan, decreased 
anxieties over future, forward thinking/goal oriented towards 
future
 
Discharge Instructions:
please take all medications as directed, attend all follow-up 
appointments provided, please call ___ or therapist if feeling 
unsafe or return of SI and go to ___ for further treatment in the 
case of an emergency
 
Followup Instructions:
___